US04563455
A solution of 2-chloromethyl-1H-benzimidazole (4.85 g) and imidazole (9.9 g) in ethanol (37 ml) was stirred at 70° C. for 6 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (120 g) with a mixture of methanol and dichloromethane (5:95) as an eluent to afford an oil, which was crystallized from ethyl acetate. Recrystallization from a mixture of methanol and diethyl ether to give 2-(imidazol-1-yl)methyl-1H-benzimidazole (0.76 g).

reactant | 2-chloromethyl-1H-benzimidazole | 4.85 g | ClCC1=NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | imidazole | 9.9 g | N1C=NC=C1 | C3H4N2
solvent | ethanol | 37 ml | C(C)O | C2H6O
product | 2-(imidazol-1-yl)methyl-1H-benzimidazole | 0.76 g | N1(C=NC=C1)CC1=NC2=C(N1)C=CC=C2 | C11H10N4
